US07632840B2
1-{4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}ethanol was reacted with thionyl chloride using an analogous procedure to that described for the equivalent step in Example 62 to give 6-(1-chloroethyl)-N-(3-chloro-2-fluorophenyl)-7-methoxyquinazolin-4-amine hydrochloride; 1H NMR Spectrum: (DMSO d6) 1.97 (d, 3H); 4.07 (s, 3H); 5.66 (q, 1H); 7.37 (m, 2H); 7.56 (m, 1H); 7.65 (m, 1H); 8.87 (s, 1H); 9.04 (s, 1H).

reactant | 1-{4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}ethanol | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)C(C)O)OC)F | C17H15ClFN3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 6-(1-chloroethyl)-N-(3-chloro-2-fluorophenyl)-7-methoxyquinazolin-4-amine hydrochloride | Cl.ClC(C)C=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | InChI=1S/C17H14Cl2FN3O.ClH/c1-9(18)10-6-11-14(7-15(10)24-2)21-8-22-17(11)23-13-5-3-4-12(19)16(13)20;/h3-9H,1-2H3,(H,21,22,23);1H
